US06506733B1
The mixture was cooled to −60° C. and stirred under nitrogen while a solution comprised of tert-butyl 1-(N-methoxy-N-methylcarbamoyl)-3-phenylpropylcarbamate (17 g, 52.73 mmol) in anhydrous THF was added via syringe and the mixture was stirred until the reaction was complete. The reaction was quenched slowly with ammonium chloride solution and the mixture was stirred for 15-30 minutes. The mixture was extracted with ethyl acetate (3×7 mL) and the combined extract was dried (Mg2SO4), filtered and concentrated. Product was purified from the residue by flash column chromatography using silica gel 60 to provide tert-butyl 3-benzyloxy-2-oxo-1-phenethylpropylcarbamate (17.15 g, 44.72 mmol). 1H NMR (CDCl3): δ 1.43 (s, 9H), δ 1.74-1.82 (m. 1H), δ 2.14-2.16 (m, 1H), δ 2.60-2.67 (m, 2H), δ 4.13-4.14 (d, 2H), δ 4.49-4.61 (m, 3H), δ 5.14-5.17 (d, 1H), δ 7.1-7.4(m, 10H).

reactant | tert-butyl 1-(N-methoxy-N-methylcarbamoyl)-3-phenylpropylcarbamate | 52.73 mmol, 17 g | CON(C(=O)C(CCC1=CC=CC=C1)NC(OC(C)(C)C)=O)C | C17H26N2O4
reactant | THF | C1CCOC1 | C4H8O
product | tert-butyl 3-benzyloxy-2-oxo-1-phenethylpropylcarbamate | 44.72 mmol, 17.15 g | C(C1=CC=CC=C1)OCC(C(CCC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C23H29NO4
